US03932456
Preparation of bis(3-dibutylaminopropyl) 9-ethylcarbazole-3,6-dicarboxylate dihydrochloride
By the procedure of Example 2, one equivalent of 9-ethylcarbazole-3,6-dicarboxylic acid is allowed to react with two equivalents of 3-dibutylaminopropylchloride in the presence of a catalytic amount of benzyltrimethylammonium chloride to give the product.

reactant | 9-ethylcarbazole-3,6-dicarboxylic acid | one equivalent | C(C)N1C2=CC=C(C=C2C=2C=C(C=CC12)C(=O)O)C(=O)O | C16H13NO4
reactant | 3-dibutylaminopropylchloride | two equivalents | C(CCC)N(CCCCl)CCCC | C11H24ClN
catalyst | benzyltrimethylammonium chloride | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
product | bis(3-dibutylaminopropyl) 9-ethylcarbazole-3,6-dicarboxylate dihydrochloride | Cl.Cl.C(C)N1C2=CC=C(C=C2C=2C=C(C=CC12)C(=O)OCCCN(CCCC)CCCC)C(=O)OCCCN(CCCC)CCCC | InChI=1S/C38H59N3O4.2ClH/c1-6-11-21-39(22-12-7-2)25-15-27-44-37(42)31-17-19-35-33(29-31)34-30-32(18-20-36(34)41(35)10-5)38(43)45-28-16-26-40(23-13-8-3)24-14-9-4;;/h17-20,29-30H,6-16,21-28H2,1-5H3;2*1H
